US04407754
6.5 g of 4-(2-tosyloxyethyl)-2,2,4-trimethyl-1,3-dioxolane were heated at reflux temperature for 1 hour with 50 g of sodium iodide and 500 ml of acetone, then concentrated, suspended in 100 ml of toluene and filtered. The toluene solution was washed with sodium thiosulphate solution, dried and concentrated. There were obtained 6.0 g (97%) of 4-(2-iodoethyl)-2,2,4-trimethyl-1,3-dioxolane.

reactant | 4-(2-tosyloxyethyl)-2,2,4-trimethyl-1,3-dioxolane | 6.5 g | S(=O)(=O)(C1=CC=C(C)C=C1)OCCC1(OC(OC1)(C)C)C | C15H22O5S
reactant | sodium iodide | 50 g | [I-].[Na+]
solvent | acetone | 500 ml | CC(=O)C | C3H6O
product | 4-(2-iodoethyl)-2,2,4-trimethyl-1,3-dioxolane | 6.0 g, 97% | ICCC1(OC(OC1)(C)C)C | C8H15IO2
